US04782068
Into an appropriate reactor fitted with warming, cooling and stirring means, were poured 152.5 ml (1.5 mol) of 2,4-difluoroaniline and 425 ml (2.1 mol) of diethyl ethoxymethylenemalonate. The mixture was warmed at 90° to 100° C. for about three hours with evacuation of ethanol appearing in the condensation. This led to a solid product which was treated with hexane, washed, crystallized from hexane and dried to give 356.5 g (yield 79.5%) of 1-(2,2-diethoxycarbonyl-vinylamino)-2,4-difluoro-benzene. Elemental analysis of the product showed a good correspondence with the formula C14H15NO4F2. 350 g (1.17 mol) of this product were poured into a reactor with 1 liter of diphenyloxide. The mixture was refluxed at 265°-270° C. for 11/2 hours with a subsequent evacuation of the ethanol produced during the cyclisation. After cooling to ambient temperature, there was obtained a residue which was treated with benzene and then with hexane, dried and recrystallized from methanol. This gave 239 g (yiel 80.7%) of 1,4-dihydro-3-ethoxycarbonyl-6,8-difluoro-4-oxo-quinoline, elemental analysis of which showed a good correspondence with the formula C12H9NO3F2.

reactant | 2,4-difluoroaniline | 1.5 mol, 152.5 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | diethyl ethoxymethylenemalonate | 2.1 mol, 425 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ethanol | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 1-(2,2-diethoxycarbonyl-vinylamino)-2,4-difluoro-benzene | 356.5 g, yield 79.5% | C(C)OC(=O)C(=CNC1=C(C=C(C=C1)F)F)C(=O)OCC | C14H15F2NO4
